US05807860
1-Phenylpiperazine (2.77 g, 17.1 mmol), potassium carbonate (7.1 g, 51.4 mmol) and N,N-dimethylformamide (30 ml) were added to 5,6,7,8-tetrahydro-1-nitro-2-(3-bromopropoxy)naphthalene (4.8 g, 15.3 mmol) and the mixture was stirred at 60° C. for 8 hours. The reaction mixture was added with water (80 ml) and extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was evaporated. The residue was purified by silica gel chromatography (Wako Gell C-300: 200 g, eluent: hexane/ethyl acetate=7/1 to 3/1) to give 5,6,7,8-tetrahydro-1-nitro-2-[3-(4-phenyl-1-piperazinyl) propoxy]naphthalene (5.5 g).

reactant | 1-Phenylpiperazine | 17.1 mmol, 2.77 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | potassium carbonate | 51.4 mmol, 7.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | 5,6,7,8-tetrahydro-1-nitro-2-(3-bromopropoxy)naphthalene | 15.3 mmol, 4.8 g | [N+](=O)([O-])C1=C(C=CC=2CCCCC12)OCCCBr | C13H16BrNO3
solvent | water | 80 ml | O | H2O
product | 5,6,7,8-tetrahydro-1-nitro-2-[3-(4-phenyl-1-piperazinyl) propoxy]naphthalene | 5.5 g | [N+](=O)([O-])C1=C(C=CC=2CCCCC12)OCCCN1CCN(CC1)C1=CC=CC=C1 | C23H29N3O3
